US07618990B2
2-Bromo-4-(4-bromo-2-fluorophenyl)-1,3-thiazole (1.5 g, 4.4 mmol), prepared in the previous step, and 2-amino-2-methyl-1-propanol (2.5 mL, 26.7 mmol) were placed in a sealed tube and heated to 175° C. overnight. The reaction was concentrated under reduced pressure. The residue was purified on silica gel using a stepwise gradient of 5-40% ethyl acetate:hexane to give 2-{[4-(4-bromo-2-fluorophenyl)-1,3-thiazol-2-yl]amino}-2-methylpropan-1-ol (0.3 g, 22%), MS (ES) m/z 346 [M+H]+.

reactant | 2-Bromo-4-(4-bromo-2-fluorophenyl)-1,3-thiazole | 4.4 mmol, 1.5 g | BrC=1SC=C(N1)C1=C(C=C(C=C1)Br)F | C9H4Br2FNS
reactant | 2-amino-2-methyl-1-propanol | 26.7 mmol, 2.5 mL | NC(CO)(C)C | C4H11NO
product | 2-{[4-(4-bromo-2-fluorophenyl)-1,3-thiazol-2-yl]amino}-2-methylpropan-1-ol | 0.3 g, 22% | BrC1=CC(=C(C=C1)C=1N=C(SC1)NC(CO)(C)C)F | C13H14BrFN2OS
